US08669271B2
4-[5-(6-Acetylamino-pyridin-3-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
To a mixture of 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester (41.5 mg) and N-(5-iodo-pyridin-2-yl)-acetamide (39.3 mg) in N,N-dimethylformamide (2 mL) a 2 M aqueous Na2CO3 solution (0.125 mL) is added. The mixture is sparged with argon for 10 min and PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex (8 mg) is added. The resulting mixture is stirred over night at 90° C. After cooling to room temperature, the mixture is filtered over basic alumina and eluted with N,N-dimethyl-formamide/MeOH (9:1; 2 mL). The solvent is evaporated and the residue is purified by preparative HPLC (eluent water (+0.1% NH3)/MeOH) to yield the desired product. HPLC (method 13): tR=0.25 min; Mass spectrum (ESI+): m/z=424 [M+H]+.

reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | 41.5 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C23H34BNO5
reactant | N-(5-iodo-pyridin-2-yl)-acetamide | 39.3 mg | IC=1C=CC(=NC1)NC(C)=O | C7H7IN2O
reactant | Na2CO3 | 2 M, 0.125 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[5-(6-Acetylamino-pyridin-3-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C=2C=NC(=CC2)NC(C)=O | C24H29N3O4
